US06964961B2
A. (+/−)-Methanesulfonic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide
The title compound was prepared from methanesulfonyl chloride and (3-amino-pyrrolidin-1-yl)-(7-chloro-thieno[3,2-b]pyridin-2yl)-methanone by a procedure analogous to Example 64C. MS: 360/362 (MH+); HPLC Rf: 3.22 min.; HPLC purity 98%.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | (3-amino-pyrrolidin-1-yl)-(7-chloro-thieno[3,2-b]pyridin-2yl)-methanone | NC1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C12H12ClN3OS
product | (+/−)-Methanesulfonic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)NS(=O)(=O)C | C13H14ClN3O3S2
